US04228298
trans-4-Difluoromethyl-4-trimethylsiloxy-1-tri-n-butylstannyl-1-octene
A mixture of 13.0 g. of 4-difluoromethyl-4-trimethylsiloxy-1-octyne, 17.23 ml. of tri-n-butylstannane and 70 mg. of azobisisobutyronitrile is heated under nitrogen in an oil bath at 125°-135° C. for 2 hours. The reaction is cooled to room temperature and vacuum distilled through a short-path apparatus, giving, after a 5 ml. forerun, 25.6 g. of the product as an oil, containing a minor amount of the corresponding cis isomer.

reactant | 4-difluoromethyl-4-trimethylsiloxy-1-octyne | FC(C(CC#C)(CCCC)O[Si](C)(C)C)F | C12H22F2OSi
reactant | tri-n-butylstannane | C(CCC)[SnH](CCCC)CCCC
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | trans-4-Difluoromethyl-4-trimethylsiloxy-1-tri-n-butylstannyl-1-octene | FC(C(C/C=C/[Sn](CCCC)(CCCC)CCCC)(CCCC)O[Si](C)(C)C)F | InChI=1S/C12H23F2OSi.3C4H9.Sn/c1-6-8-10-12(9-7-2,11(13)14)15-16(3,4)5;3*1-3-4-2;/h2,7,11H,6,8-10H2,1,3-5H3;3*1,3-4H2,2H3;
